US08076345B2
B) 5-Chloro-2-{4-[(S)-2-hydroxy-1-(2-methyl-pyrimidin-5-yl)-ethylamino]-7,8-dihydro-5H-pyrido[4,3-d]pyrimidin-6-yl}-benzonitrile
To a solution of (S)-2-(4-(2-(tert-butyldimethylsilyloxy)-1-(2-methylpyrimidin-5-yl)ethylamino)-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)-5-chlorobenzonitrile (60 mg, 0.11 mmol) in THF (10 mL) was added 1M TBAF in THF (5 mL). The reaction mixture was stirred at room temperature for 10 minutes, and then treated with water and EtOAc. The organic layer was washed with aq. NaHCO3 and brine, dried (MgSO4), and concentrated. The residue was washed by ethyl ether and water (to completely remove TBAF) and dried to yield the final product as a light colored solid.

reactant | (S)-2-(4-(2-(tert-butyldimethylsilyloxy)-1-(2-methylpyrimidin-5-yl)ethylamino)-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)-5-chlorobenzonitrile | 0.11 mmol, 60 mg | [Si](C)(C)(C(C)(C)C)OC[C@H](C=1C=NC(=NC1)C)NC=1C2=C(N=CN1)CCN(C2)C2=C(C#N)C=C(C=C2)Cl | C27H34ClN7OSi
reactant | TBAF | 1M | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | water | O | H2O
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 5-Chloro-2-{4-[(S)-2-hydroxy-1-(2-methyl-pyrimidin-5-yl)-ethylamino]-7,8-dihydro-5H-pyrido[4,3-d]pyrimidin-6-yl}-benzonitrile | ClC=1C=CC(=C(C#N)C1)N1CC2=C(N=CN=C2N[C@H](CO)C=2C=NC(=NC2)C)CC1 | C21H20ClN7O
